US04463007
6-Propyl-1,2,4-triazolo[1,5-c]quinazolin-5-one-2-carboxylic acid
1.1 g of NaHCO3 were added to 3.5 g (0.012 mole) of ethyl 6-propyl-1,2,4-triazolo[1,5-c]quinazolin-5-one-2-carboxylate in 50 ml of water, and the mixture was refluxed for 8 hours. It was then filtered, and acidified with dilute HCl, and the precipitate was filtered off under suction and dried. Yield: 1.0 g (32%), mp. 233°-235° C.

reactant | NaHCO3 | 1.1 g | C(=O)(O)[O-].[Na+]
reactant | ethyl 6-propyl-1,2,4-triazolo[1,5-c]quinazolin-5-one-2-carboxylate | 0.012 mole, 3.5 g | C(CC)N1C(N2C(C=3C=CC=CC13)=NC(=N2)C(=O)OCC)=O | C15H16N4O3
solvent | water | 50 ml | O | H2O
product | 6-Propyl-1,2,4-triazolo[1,5-c]quinazolin-5-one-2-carboxylic acid | C(CC)N1C(N2C(C=3C=CC=CC13)=NC(=N2)C(=O)O)=O | C13H12N4O3
